US06660753B2
A mixture of 3-(3-bromo-5-fluorophenyl)-5-(5-fluoro-pyrid-2-yl)-1,2,4-oxadiazole (80 mg, 0.236 mmol), pyridine-3-boronic acid 1,3-propanediol cyclic ester (80 mg, 0.49 mmol), and tetrakis(triphenylphosphine)palladium(0) (Pd(PPh3)4, 40 mg, 0.0346 mmol), in a solution of ethylene glycol dimethyl ether (1.5 mL) and 2M sodium carbonate (1.5 mL) was heated in a sealed vial at 100° C. for 1 hour. The reaction was cooled, diluted with dichloromethane, washed with water and saturated brine, filtered, and concentrated. Silica gel chromatography using a gradient of 50% ethyl acetate in hexane, afforded 14 mg (17.7%) 5-(5-fluoro-pyrid-2-yl)-3-[3-fluoro-5-(3-pyridyl)-phenyl]-1,2,4-oxadiazole. 1H-NMR (CDCl3), δ (ppm): 8.95 (s, 1H), 8.76 (d, 1H), 8.66 (d, 1H), 8.37 (dd, 2H), 8.25 (s, 1H), 7.95 (d, 2H), 7.43 (m, 2H).

reactant | 3-(3-bromo-5-fluorophenyl)-5-(5-fluoro-pyrid-2-yl)-1,2,4-oxadiazole | 0.236 mmol, 80 mg | BrC=1C=C(C=C(C1)F)C1=NOC(=N1)C1=NC=C(C=C1)F | C13H6BrF2N3O
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.49 mmol, 80 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | ethylene glycol dimethyl ether | 1.5 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0346 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(5-fluoro-pyrid-2-yl)-3-[3-fluoro-5-(3-pyridyl)-phenyl]-1,2,4-oxadiazole | 14 mg, 17.7% | FC=1C=CC(=NC1)C1=NC(=NO1)C1=CC(=CC(=C1)C=1C=NC=CC1)F | C18H10F2N4O
